US05853713
N-(N-Phenylalanylleucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)-sarcosylamino)ethyl)amidehydrochlorlde. N-(N-(N-(1,1-Dimethylethoxycarbonyl)phenylalanyl)leucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide (1.94 g, 2.8 mmol) was treated with excess hydrogen chloride in dichloromethane (25 mL) for 1 h. The solvent and excess reagent were evaporated under reduced pressure. The residue was dissolved in methanol. Evaporation of the solvent under reduced pressure gave N-(N-phenylalanylleucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide hydrochloride (1.67 g, 95%).

reactant | N-(N-(N-(1,1-Dimethylethoxycarbonyl)phenylalanyl)leucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide | 2.8 mmol, 1.94 g | C1(=CC=CC=C1)COC(=O)N(C)CC(=O)NCCNC(CNC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)CC(C)C)=O)=O | C35H50N6O8
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(N-phenylalanylleucyl)glycine N-(2-(N-(phenylmethoxycarbonyl)sarcosylamino)ethyl)amide hydrochloride | 1.67 g, 95% | Cl.C1(=CC=CC=C1)COC(=O)N(C)CC(=O)NCCNC(CNC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC(C)C)=O)=O | InChI=1S/C30H42N6O6.ClH/c1-21(2)16-25(35-28(39)24(31)17-22-10-6-4-7-11-22)29(40)34-18-26(37)32-14-15-33-27(38)19-36(3)30(41)42-20-23-12-8-5-9-13-23;/h4-13,21,24-25H,14-20,31H2,1-3H3,(H,32,37)(H,33,38)(H,34,40)(H,35,39);1H/t24-,25-;/m0./s1
